US04542237
The oil, 1,1-dimethoxy-1-(3-phenoxyphenyl)propan-2-ol, from Example 26 and 11.3 g of triethylamine are dissolved in 65 ml of toluene. Then the solution is cooled to 10°-12° C. and 9.7 g of methanesulfonyl chloride in 35 ml of toluene is added over 30 minutes. After the addition is completed, the mixture is poured into 100 ml of saturated sodium bicarbonate solution, and 100 ml of toluene is added. The organic layer is separated, dried over magnesium sulfate and evaporated to yield 23.25 g of 1,1-dimethoxy-1-(3-phenoxyphenyl)prop-2-yl methanesulfonate, as an oil.

reactant | 1,1-dimethoxy-1-(3-phenoxyphenyl)propan-2-ol | COC(C(C)O)(C1=CC(=CC=C1)OC1=CC=CC=C1)OC | C17H20O4
reactant | triethylamine | 11.3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethoxy-1-(3-phenoxyphenyl)prop-2-yl methanesulfonate | 23.25 g | CS(=O)(=O)OC(C(C1=CC(=CC=C1)OC1=CC=CC=C1)(OC)OC)C | C18H22O6S
